US06576632B1
trans-4-[(2-Benzyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-methyl]-benzoic acid methyl ester:
In a procedure similar to preparation C, the title compound was prepared from 1-amino-2-benzyltetralin and 4-carbomethoxybenzaldehyde. The trans isomer was isolated as an oil in 20% yield following chromatography on silica gel with ethyl acetate/hexane.

reactant | 1-amino-2-benzyltetralin | NC1C(CCC2=CC=CC=C12)CC1=CC=CC=C1 | C17H19N
reactant | 4-carbomethoxybenzaldehyde | C(=O)(OC)C1=CC=C(C=O)C=C1 | C9H8O3
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | trans-4-[(2-Benzyl-1,2,3,4-tetrahydro-naphthalen-1-ylamino)-methyl]-benzoic acid methyl ester | 20% yield | COC(C1=CC=C(C=C1)CN[C@H]1[C@@H](CCC2=CC=CC=C12)CC1=CC=CC=C1)=O | C26H27NO2
